US05891882
Methyl 3-amino-4-chloro-thieno[3,2-c]pyridine-2-carboxylate
To 3-cyano-2,4dichloropyridine (653 mg) and methyl thioglycolate (340 μL) in DMF (12 mL) at 5° C. was added a solution of 1.0M KOtBu/THF (4.5 mL). The reaction was stirred 20 min at 5° then 1 h at RT, then quenched in sat'd NH4Cl, the solid precipitate collected, washed with water and sucked dry to give 800 mg (88%) of the title compound.

reactant | 3-cyano-2,4dichloropyridine | 653 mg | C(#N)C=1C(=NC=CC1Cl)Cl | C6H2Cl2N2
reactant | methyl thioglycolate | 340 μL | C(CS)(=O)OC | C3H6O2S
reactant | KOtBu THF | 1.0M, 4.5 mL | CC(C)(C)[O-].[K+].C1CCOC1
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | Methyl 3-amino-4-chloro-thieno[3,2-c]pyridine-2-carboxylate | 800 mg, 88% | NC1=C(SC2=C1C(=NC=C2)Cl)C(=O)OC | C9H7ClN2O2S
